US04497817
To 70 ml of methyl ethyl ketone were added 7 g of 2-aminobenzothiazole and 10 g of o-methoxyphenacyl bromide and the mixture was refluxed for 10 hours. The reaction mixture was filtered while it was hot to recover crystals precipitated. The crystals were washed with methyl ethyl ketone, and dried to provide 3.0 g of 2-(o-methoxyphenyl)imidazo[2,1-b]-benzothiazole hydrobromide having a melting point of 263°-265° C.

reactant | 2-aminobenzothiazole | 7 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | o-methoxyphenacyl bromide | 10 g | COC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO2
solvent | methyl ethyl ketone | 70 ml | C(C)C(=O)C | C4H8O
product | 2-(o-methoxyphenyl)imidazo[2,1-b]-benzothiazole hydrobromide | 3.0 g | Br.COC1=C(C=CC=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | InChI=1S/C16H12N2OS.BrH/c1-19-14-8-4-2-6-11(14)12-10-18-13-7-3-5-9-15(13)20-16(18)17-12;/h2-10H,1H3;1H
